US07696223B2
a) 4-Acetoxy-7-cyano-1-(2-fluoro-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 120(a) from 7-cyano-1-(2-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, acetic anhydride, and triethyl amine. The title compound, ESI MS (m/z): 382 (M+H)+.

reactant | 7-cyano-1-(2-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)CC2=C(C=CC=C2)F)O | C18H14FN3O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 4-Acetoxy-7-cyano-1-(2-fluoro-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)CC2=C(C=CC=C2)F)OC(C)=O | C20H16FN3O4
